US08378104B2
trans-4-{4-[7-amino-2-(1-methyl-1H-indazol-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol
The title compound was prepared in 69% yield from 4-{1-[4-(tert-butyldimethyl-silanyloxy)-cyclohexyl]-1H-pyrazol-4-yl}-2-chlorofuro[2,3-c]pyridin-7-ylamine and 1-methylindazole-7-boronic acid by a procedure analogous to Example 229. The material was further purified by preparative TLC (5% 7 N ammonia/MeOH:ethyl acetate) instead of trituration. 1H NMR (400 MHz, DMSO-d6): δ 8.24 (s, 1H), 8.23 (s, 1H), 8.03 (s, 1H), 7.98 (dd, J=0.76, 8.08 Hz, 1H), 7.92 (s, 1H), 7.71 (dd, J=1.01, 7.07 Hz, 1H), 7.56 (s, 1H), 7.29 (dd, J=7.20, 7.96 Hz, 1H), 6.41 (br s, 2H), 4.67 (d, J=4.29 Hz, 1H), 4.15 (tt, J=3.95, 11.59 Hz, 1H), 3.91 (s, 3H), 3.46-3.57 (m, 1H), 2.04 (d, J=12.13 Hz, 2H), 1.79-1.98 (m, 4H), 1.30-1.43 (m, 2H); MS (ESI): 428.94 [M+H]+; HPLC tR=2.63 min (ZQ3: polar—5 min).

reactant | 4-{1-[4-(tert-butyldimethyl-silanyloxy)-cyclohexyl]-1H-pyrazol-4-yl}-2-chlorofuro[2,3-c]pyridin-7-ylamine | C(C)(C)(C)[Si](OC1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl)(C)C | C22H31ClN4O2Si
reactant | 1-methylindazole-7-boronic acid | CN1N=CC2=CC=CC(=C12)B(O)O | C8H9BN2O2
product | trans-4-{4-[7-amino-2-(1-methyl-1H-indazol-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol | 69% yield | NC=1N=CC(=C2C1OC(=C2)C=2C=CC=C1C=NN(C21)C)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O | C24H24N6O2
